* A test circuit to demonstrate SPICE syntax V1 N003 0 SINE(2 1 1000)
* V1 N003 0 SINE(2 1 1000)
R1 N001 N003 1k
C1 N001 0 1μ
* I1 0 N004 0.1
* D1 N004 N002 D
L1 N002 N001 1m
R2 N002 N001 1Meg
* Q1 N003 N001 0 NPN
.tran 0 10ms 0 1us 
.end